US07291619B2
A 4M solution of HCl in dioxane (20 mL) was added to a solution of 4-(2-Pyrrolidin-1-ylmethyl-phenyl)-piperazine-1-carboxylic acid t-butyl ester (2.01 gm, 5.82 mmol). The solution was stirred at r.t. overnight under a nitrogen and then concentrated to remove dioxane. Diethyl ether was added and the solution was concentrated (2×). Diethyl ether was added and the product was isolated by suction filtration and then washed with diethyl ether. Vacuum drying at 50° C. overnight gave 1-(2-Pyrrolidin-1-ylmethyl-phenyl)-piperazine 2HCl (1.62 g, 87.6%). MS (m/z, ES+): 246.1.

reactant | HCl | Cl | ClH
reactant | 4-(2-Pyrrolidin-1-ylmethyl-phenyl)-piperazine-1-carboxylic acid t-butyl ester | 5.82 mmol, 2.01 gm | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CN1CCCC1 | C20H31N3O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-(2-Pyrrolidin-1-ylmethyl-phenyl)-piperazine 2HCl | 1.62 g, 87.6% | Cl.Cl.N1(CCCC1)CC1=C(C=CC=C1)N1CCNCC1 | InChI=1S/C15H23N3.2ClH/c1-2-6-15(18-11-7-16-8-12-18)14(5-1)13-17-9-3-4-10-17;;/h1-2,5-6,16H,3-4,7-13H2;2*1H
